US07335658B2
6-[4-(4,4,4-TRIFLUORO-3-HYDROXY-3-METHYLBUTYRYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 4,4,4-trifluoro-3-hydroxy-3-methylbutyric acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white powder (50.1% yield). 1H NMR (300 MHz, CDCl3) δ 8.07, 7.96, 6.98, 6.23, 4.05-3.52, 2.90, 2.47, 1.53-1.43, 0.76, 0.46, 0.09. MS (ES+) m/z 430 (M+1).

reactant | 4,4,4-trifluoro-3-hydroxy-3-methylbutyric acid | FC(C(CC(=O)O)(C)O)(F)F | C5H7F3O3
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(4,4,4-TRIFLUORO-3-HYDROXY-3-METHYLBUTYRYL)PIPERAZIN-1-YL]-PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(CC(C(F)(F)F)(C)O)=O | C19H26F3N5O3
